US04797483
Preparation of isopropyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide
1,425 ml (15 mol) of dimethyl sulfate are added at between 10° and 15° C. to a solution of 2,833 g (10 mol) of isopropyl 4-hydroxy-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide and 440 g (11 mol) of sodium hydroxide in 4 l of water and 11.3 l of isopropanol. The mixture is maintained with stirring for 4 hours at room temperature, diluted with 28 l of water and cooled to 0°-5° C. The precipitate obtained is centrifuged, washed with cold water and dried, 2.675 g (90%) of a white or slightly pink solid, m.p. 102°-3° C. (104°-5° C. from methanol), being obtained.

reactant | dimethyl sulfate | 15 mol, 1,425 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | isopropyl 4-hydroxy-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | 10 mol, 2,833 g | OC1=C(NS(C2=C1C=CC=C2)(=O)=O)C(=O)OC(C)C | C12H13NO5S
reactant | sodium hydroxide | 11 mol, 440 g | [OH-].[Na+]
solvent | water | 4 l | O | H2O
solvent | isopropanol | 11.3 l | C(C)(C)O | C3H8O
solvent | water | 28 l | O | H2O
product | isopropyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC(C)C | C13H15NO5S
